US07538123B2
80 ml of a tetrahydrofuran solution containing 18.6 mmol lithium bis(trimethylsilyl)amide was cooled to −75° C. 3.23 g of methyl 2-(3-ethoxycarbonylpropoxy)-4-methoxy-5-(3-methyl-2-butenyl)benzoate was dissolved in 8 ml of tetrahydrofuran, and the obtained solution was added dropwise to the above solution. After completion of the dropping, the reaction solution was warmed to 0° C. After completion of the reaction, a saturated ammonium chloride aqueous solution and ethyl acetate were added to the reaction solution, so as to separate an organic layer. The obtained organic layer was washed with a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate), so as to obtain 969 mg of ethyl 8-methoxy-7-(3-methyl-2-butenyl)-5-oxo-2,3,4,5-tetrahydrobenz[b]oxepin-4-carboxylate. Thereafter, 751 mg of the obtained compound was dissolved in 15 ml of tetrahydrofuran. While the reaction solution was stirred under heating at 70° C., 4 ml of a 5 N sodium hydroxide aqueous solution was added thereto in 3 batches. Approximately 2 hours later, tetrahydrofuran as a reaction solution was concentrated under a reduced pressure, and 10 ml of ethanol was then added thereto. Thereafter, 5 ml of 5 N hydrochloric acid was added to this ethanol solution, and the mixture was heated to reflux again. After completion of the reaction, ethyl acetate was added to the reaction solution, and the obtained organic layer was washed with a saturated sodium chloride aqueous solution. The organic layer was then dried over anhydrous magnesium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate), so as to obtain 422 mg of the subject compound.

reactant | lithium bis(trimethylsilyl)amide | 18.6 mmol | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyl 2-(3-ethoxycarbonylpropoxy)-4-methoxy-5-(3-methyl-2-butenyl)benzoate | 3.23 g | C(C)OC(=O)CCCOC1=C(C(=O)OC)C=C(C(=C1)OC)CC=C(C)C | C20H28O6
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | ethyl 8-methoxy-7-(3-methyl-2-butenyl)-5-oxo-2,3,4,5-tetrahydrobenz[b]oxepin-4-carboxylate | 969 mg | COC=1C(=CC2=C(OCCC(C2=O)C(=O)OCC)C1)CC=C(C)C | C19H24O5
